US06358980B1
1-Benzyl-4-(4-but-2-ynyloxy-benzenesulfonyl)-piperdine-4-carboxylic acid was prepared starting from 1-benzyl-4-(4-but-2-ynyloxy-benzenesulfonyl)-piperdine-4-carboxylic acid ethyl ester (3 g, 6.6 mmol) dissolved in THF:methanol (3:1 150 ml) and 10 N NaOH (15 ml). The resulting reaction mixture was worked up as outlined in Example 1 (Step 7). Yield 1.65 g (59%); off white powder; mp 191° C.; MS: 428 (M+H)+

reactant | 1-benzyl-4-(4-but-2-ynyloxy-benzenesulfonyl)-piperdine-4-carboxylic acid ethyl ester | 6.6 mmol, 3 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C25H29NO5S
solvent | THF methanol | 150 ml | C1CCOC1.CO
solvent | NaOH | 10 N, 15 ml | [OH-].[Na+]
product | 1-Benzyl-4-(4-but-2-ynyloxy-benzenesulfonyl)-piperdine-4-carboxylic acid | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C23H25NO5S
